US07405233B2
A solution of methyl-3-[3-(4-isopropylphenyl)-2,5-dioxo-imidazolidin-1-yl]-benzoate (0.69 g, 1.96 mmol) and lithium iodide (2.62 g) in pyridine (10 mL) was heated to reflux for 40 h. The solution was cooled and evaporated, and the residue was partitioned between ethyl acetate and 1 N aqueous HCl. The organic layer was washed with water and brine, then dried over magnesium sulfate, filtered and evaporated. The residual material was separated by column chromatography (silica gel, 50:50 ethyl acetate-hexane then ethyl acetate) to afford the product, 3-[3-(4-isopropylphenyl)-2,5-dioxo-imidazolidin-1-yl]-benzoic acid, as a powder (0.33 g, 0.98 mmol, 50%). m.p. 224-226° C. TLC Rf (20:80 CH3OH—CH2Cl2) 0.3. 1H NMR (CDCl3, 300 MHz): δ 8.24 (1H, t, J=2 Hz), 8.14 (1H, dt, J=8, 2 Hz), 7.73 (1H, dt, J=8, 2, 1 Hz), 7.61 (1H, t, J=7Hz), 7.51 (2H, d, J=8 Hz), 7.28 (2H, d, J=8 Hz), 4.50 (2H, s), 2.92 (1H, m, J=7 Hz), 1.25 (6H, d, J=7 Hz). Mass spectrum (ES+): m/z 340 (21), 339 (100). Elemental analysis: calculated for C19H18N2O4.0.149H2O C 66.91; H 5.41; N 8.21; observed C 66.82, H 5.17; N 8.10.

reactant | methyl-3-[3-(4-isopropylphenyl)-2,5-dioxo-imidazolidin-1-yl]-benzoate | 1.96 mmol, 0.69 g | COC(C1=CC(=CC=C1)N1C(N(CC1=O)C1=CC=C(C=C1)C(C)C)=O)=O | C20H20N2O4
reactant | lithium iodide | 2.62 g | [I-].[Li+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-[3-(4-isopropylphenyl)-2,5-dioxo-imidazolidin-1-yl]-benzoic acid | C(C)(C)C1=CC=C(C=C1)N1C(N(C(C1)=O)C=1C=C(C(=O)O)C=CC1)=O | C19H18N2O4
